* Z:\home\alumno\Desktop\modelo_1_1.asc
Q1 N007 N008 0 0 2N2222
Q2 N008 N008 0 0 2N2222
Q3 N004 verr N007 0 2N2222
Q4 N001 N005 N007 0 2N2222
Q5 N003 N004 vout 0 BC547B
Q7 N004 N002 N001 0 BC557B
Q8 N002 N002 N001 0 BC557B
R1 N001 N008 2650
R2 N002 0 5300
Q9 vout N003 N001 0 BC557B
V1 N005 0 3.3
V2 N001 0 6.25
Q6 N001 vout N006 0 BC547B
R4 N006 verr 1000
I1 vout 0 1
R3 verr 0 3300
.model NPN NPN
.model PNP PNP
.lib C:\users\alumno\My Documents\LTspiceXVII\lib\cmp\standard.bjt
;op
.dc I1 0.01 1 0.001
.backanno
.end
